US04654360
3-Phenylsulfinylindole
Solid m-chloroperbenzoic acid (1.93 g, 9.77 mmol) was added in small portions to a well stirred solution of 3-phenylthioindole (2.0 g, 8.88 mmol) in dry dichloromethane (100 ml) at 0°. Five min after the addition was terminated, the reaction was completed. The solution was washed with saturated sodium bicarbonate solution, the organic phase diluted with ether, dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from ether-hexane to give the title compound, M.P.-126°-127° C.

reactant | m-chloroperbenzoic acid | 9.77 mmol, 1.93 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-phenylthioindole | 8.88 mmol, 2.0 g | C1(=CC=CC=C1)SC1=CNC2=CC=CC=C12 | C14H11NS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-Phenylsulfinylindole | C1(=CC=CC=C1)S(=O)C1=CNC2=CC=CC=C12 | C14H11NOS
